************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G1_INV_N1
* View Name:     schematic
* Netlisted on:  Nov 23 18:13:44 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G1_INV_N1
* View Name:    schematic
************************************************************************

.SUBCKT G1_INV_N1 A Vdd Vss Z
*.PININFO A:I Z:O Vdd:B Vss:B
XI2 A Z Vss Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI1 A Z Vdd Vdd Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

